US07553845B2
(3-methoxy-4-nitrophenyl)(2-methylindolizin-3-yl)methanone
This compound is obtained by carrying out the procedure according to the preparation described in Example 1, by benzoylation of 2-methylindolizine, described in Pharmazie; (1980), vol 35(4), pp 203-204, with 3-methoxy-4-nitrobenzoyl chloride.

reactant | 2-methylindolizine | CC=1C=C2C=CC=CN2C1 | C9H9N
reactant | 3-methoxy-4-nitrobenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C8H6ClNO4
product | (3-methoxy-4-nitrophenyl)(2-methylindolizin-3-yl)methanone | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=C(C=C2C=CC=CN12)C | C17H14N2O4
